US06498180B1
To a solution of trans-4,4,4-trifluoro-2-buten-1-yl acetoacetate (13.7 g, 65.1 mmol) and triethylamine (11.7 mL, 84 mmol) in anhydrous acetonitrile (60 mL), a solution of p-acetamidobenzenesulfonyl azide (20.1 g, 84 mmol) in anhydrous acetonitrile (60 mL) was added dropwise over a period of 30 minutes. A white precipitate was observed after 15-20 minutes and additional acetonitrile (100 mL) was added to facilitate stirring. The resulting mixture was stirred at room temperature for one additional hour. Then, a solution of lithium hydroxyde (9.0 g, 214 mmol) in water (75 mL) was added to the reaction mixture. After stirring for one hour, the resulting mixture was poured onto 2:1 diethylether:ethyl acetate (150 mL) and layers were separated. Aqueous layer was extracted with 2:1 diethylether:ethyl acetate (150 mL) and the combined organic phases were washed with a saturated aqueous sodium chloride solution (50 mL). The resulting organic solution was dried over sodium sulfate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography using a mixture 4:1 of hexane and ethyl acetate as eluent to afford 9.4 g (75% yield) of trans-4,4,4-trifluoro-2-buten-1-yl diazoacetate as a yellow oil.

reactant | trans-4,4,4-trifluoro-2-buten-1-yl acetoacetate | 65.1 mmol, 13.7 g | C(CC(=O)C)(=O)OC\C=C\C(F)(F)F | C8H9F3O3
reactant | triethylamine | 84 mmol, 11.7 mL | C(C)N(CC)CC | C6H15N
reactant | p-acetamidobenzenesulfonyl azide | 84 mmol, 20.1 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | lithium | [Li] | Li
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | diethylether | C(C)OCC | C4H10O
product | trans-4,4,4-trifluoro-2-buten-1-yl diazoacetate | 9.4 g, 75% yield | [N+](=[N-])=CC(=O)OC\C=C\C(F)(F)F | C6H5F3N2O2
